US08633173B2
To a solution of 4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (250.0 mg, 0.4556 mmol) in dichloromethane (1 mL) was added dropwise trifluoroacetic acid (0.40 mL, 5.2 mmol) and the mixture was stirred at room temperature for 6 hours. The mixture was diluted with dichloromethane (20 mL) and saturated aqueous sodium carbonate (10 mL) was added dropwise. The mixture was stirred for 30 minutes. The layers were separated and the aqueous was washed with dichloromethane (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated under reduced pressure. [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperazin-1-yl-phenyl)-amine was isolated as a yellow foam (0.168 g, 82%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.49 (d, J=6.7 Hz, 1H), 8.25 (d, J=8.4 Hz, 2H), 8.08 (d, J=8.4 Hz, 2H), 7.65 (d, J=7.2 Hz, 1H), 7.36 (s, 1H), 7.23 (t, J=8.3 Hz, 1H), 7.04-6.96 (m, 2H), 6.86 (s, 1H), 6.60 (d, J=8.3 Hz, 1H), 3.24-3.19 (m, 4H), 3.10 (s, 3H), 3.09-3.04 (m, 4H). MS=449 (MH)+.

reactant | 4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.4556 mmol, 250.0 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C28H32N6O4S
reactant | trifluoroacetic acid | 5.2 mmol, 0.40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperazin-1-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCNCC2 | C23H24N6O2S
